US09226916B2
b) 5′-Fluoro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid
A mixture of 4 g (16 mmol) 5′-Fluoro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid ethyl ester and 0.832 g (20 mmol) LiOH.H2O in 50 mL THF, 50 mL water and 5 mL methanol was stirred for 2 h at 20° C. Acetic acid was added to pH 6 and water and ethyl acetate. The mixture was extracted with ethyl acetate and the combined organic layers were washed with brine, dried with Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica eluting with a gradient formed from heptane and ethyl acetate. The product containing fractions were evaporated to yield 3.1 g (87%) of the title compound as off-white solid. MS m/e: 223.1 [M−H].

reactant | 5′-Fluoro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid ethyl ester | 16 mmol, 4 g | C(C)OC(=O)C1CCN(CC1)C1=NC=C(C=C1)F | C13H17FN2O2
reactant | LiOH.H2O | 20 mmol, 0.832 g | O[Li].O
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 5′-Fluoro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid | 3.1 g, 87% | FC=1C=CC(=NC1)N1CCC(CC1)C(=O)O | C11H13FN2O2
